US08017619B2
The crude 2-(tert-butyl-dimethyl-silanyloxy)-6-dimethylaminomethylene-cyclohex-2-enone in DMA (75 mL) was treated with 3-guanidino-benzenesulfonamide as the hydrochloride salt (7.79 g, 31.09 mmol) and potassium carbonate (2.13 g, 15.54 mmol) and the mixture stirred at 110° C. for 20 hours. The mixture was evaporated under high vacuum and triturated with dichloromethane (100 mL) to give a buff coloured precipitate. The precipitate was filtered, the mother liquors concentrated in vacuo and purified by flash chromatography on silica gel eluting with ethyl acetate to give 3-(8-hydroxy-5,6-dihydro-quinazolin-2-ylamino)benzenesulfonamide as a yellow solid (0.63 g, 6.5%). MS (ES+) 319, (ES−) 317. δH (d6 DMSO) 2.04-2.12 (2H, m), 2.66-2.74 (2H, m), 2.84-2.90 (2H, m), 7.33 (2H, s), 7.43 (1H, d), 7.48 (1H, t), 8.16 (1H, d), 8.25 (1H, s), 8.78 (1H, s), 10.25 (1H, s).

reactant | 2-(tert-butyl-dimethyl-silanyloxy)-6-dimethylaminomethylene-cyclohex-2-enone | C(C)(C)(C)[Si](OC=1C(C(CCC1)=CN(C)C)=O)(C)C | C15H27NO2Si
reactant | 3-guanidino-benzenesulfonamide | N(C(=N)N)C=1C=C(C=CC1)S(=O)(=O)N | C7H10N4O2S
reactant | potassium carbonate | 15.54 mmol, 2.13 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 75 mL | CC(=O)N(C)C | C4H9NO
product | 3-(8-hydroxy-5,6-dihydro-quinazolin-2-ylamino)benzenesulfonamide | 0.63 g, 6.5% | OC1=CCCC=2C=NC(=NC12)NC=1C=C(C=CC1)S(=O)(=O)N | C14H14N4O3S
